US04837217
To a solution of 2.3 g of 6-(4-fluorobenzyloxy)-3-pyridine methanol in 20 ml of N,N-dimethylformamide was added under stirring at 0° C. 0.5 g of 55% sodium hydride (in mineral oil). After stirring for 30 minutes at room temperature, thereto was added 2.2 g of 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone. The reaction mixture was stirred at room temperature for additional 8 hours, poured into 50 ml of ice water and extracted twice with 50 ml of benzene. The organic layer was washed with water, dried over anhydrous sodium sulfate and then freed of solvent by distillation under reduced pressure to give 4.1 g of a crude product. The crude product was added with isopropyl ether and recrystallized therefrom to obtain 3.2 g of 2-t-butyl-4-chloro-5-[{6-(4-fluorobenzyloxy)-3-pyridyl}-methyloxy]-3(2H)-pyridazinone, m.p. 121.0°~124.0° C.

reactant | 6-(4-fluorobenzyloxy)-3-pyridine methanol | 2.3 g | FC1=CC=C(COC2=CC=C(C=N2)CO)C=C1 | C13H12FNO2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone | 2.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C8H10Cl2N2O
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-4-chloro-5-[{6-(4-fluorobenzyloxy)-3-pyridyl}-methyloxy]-3(2H)-pyridazinone | 3.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OCC=1C=NC(=CC1)OCC1=CC=C(C=C1)F | C21H21ClFN3O3
